US07495103B2
To a solution of 2-tert-butyl-4-fluoro-5-nitrophenyl methyl carbonate (C-7-a) (1.08 g, 4 mmol) in CH2Cl2 (40 mL) was added piperidine (3.94 mL, 10 mmol). The mixture was stirred at room temperature for 1 h and extracted with 1N NaOH (3×). The aqueous layer was acidified with 1N HCl and extracted with diethyl ether. The ether extract was washed with brine, dried (MgSO4) and concentrated to give 2-tert-butyl-4-fluoro-5-nitrophenol (530 mg, 62%). 1H NMR (400 MHz, DMSO-d6) δ 10.40 (s, 1H), 7.49 (d, J=6.8 Hz, 1H), 7.25 (d, J=13.7 Hz, 1H), 1.36 (s, 9H).

reactant | 2-tert-butyl-4-fluoro-5-nitrophenyl methyl carbonate | 4 mmol, 1.08 g | C(OC1=C(C=C(C(=C1)[N+](=O)[O-])F)C(C)(C)C)(OC)=O | C12H14FNO5
reactant | piperidine | 10 mmol, 3.94 mL | N1CCCCC1 | C5H11N
solvent | CH2Cl2 | 40 mL | C(Cl)Cl | CH2Cl2
product | 2-tert-butyl-4-fluoro-5-nitrophenol | 530 mg, 62% | C(C)(C)(C)C1=C(C=C(C(=C1)F)[N+](=O)[O-])O | C10H12FNO3
